US04927822
(a) 4-(Trifluoromethyl)phenylcarbothioic acid hydrazide
[((4-(Trifluoromethyl)phenyl)thioxomethyl)thio]acetic acid (6.7 g) was dissolved in methanol (50 ml). Potassium hydroxide (1.34 g) in water (15 ml) was added followed by hydrazine hydrate (1.28 ml). The mixture was stirred for 4 hours at room temperature. Glacial acetic acid was added until the pH was 5 and the solvent was removed under reduced pressure. The product was extracted with diethyl ether (250 ml) and the solvent was evaporated under reduced pressure. The resulting solid was crystallised from cyclohexane as pale pink crystals (4.0 g) mp 114°-115.5°.

reactant | [((4-(Trifluoromethyl)phenyl)thioxomethyl)thio]acetic acid | 6.7 g | FC(C1=CC=C(C=C1)C(SCC(=O)O)=S)(F)F | C10H7F3O2S2
reactant | Potassium hydroxide | 1.34 g | [OH-].[K+]
reactant | hydrazine hydrate | 1.28 ml | O.NN
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 4-(Trifluoromethyl)phenylcarbothioic acid hydrazide | C1=CC(=CC=C1C(=S)NN)C(F)(F)F | C8H7F3N2S
